US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 145B from 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine: MS (ESI): m/z 476 (M−1).

reactant | 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C12H9F3N2
reactant | 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine | BrC=1C=NC=C(C1)C=1OC(=NN1)CCl | C8H5BrClN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CC | C20H13BrF3N5O
